US08980887B2
N-ethyl-N-(2-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 2)
According to the method of Example 13, 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(2-pyridinylmethyl)ethylamine were used as raw materials for synthesis, salified with hydrochloric acid-ethyl ether solution in dry dichloromethane, then crystallized with methanol-tetrahydrofuran to obtain a corresopnding hydrochloride pure product. Yellow solid powder, yield 51.2%. m.p. 178-180° C., ESI-MS m/z: 420[M+H]+, 1H NMR(D2O, 400 MHz)δ: 0.95(t, 0.5H, J=7.00 Hz), 1.14(t, 2.5H, J=7.00 Hz), 2.38(s, 2.5H), 2.40(s, 0.5H), 3.30(q, 0.4H, J=7.00 Hz), 3.56(q, 1.6H, J=7.00 Hz), 4.14(s, 0.4H), 4.36(s, 1.6H), 4.76(s, 1.6H), 4.86(s, 0.4H), 7.14-7.24(m, 1H), 7.30-7.46(m, 4H), 7.50(s, 1H), 7.69-7.75(m, 2H), 8.11-8.13(m, 1H), 8.33-8.53(m, 2H).

reactant | 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-(2-pyridinylmethyl)ethylamine | N1=C(C=CC=C1)CNCC | C8H12N2
reactant | hydrochloric acid ethyl ether | Cl.C(C)OCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-ethyl-N-(2-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 51.2% | Cl.C(C)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)Cl)=O)CC2=NC=CC=C2 | InChI=1S/C24H23ClN4O.ClH/c1-3-28(16-20-6-4-5-12-26-20)23(30)15-21-24(18-7-9-19(25)10-8-18)27-22-14-17(2)11-13-29(21)22;/h4-14H,3,15-16H2,1-2H3;1H
